US08242280B2
To a mixture of 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine (0.545 g, 1.1 mmol) and (3-Bromo-phenyl)-(tert-butoxycarbonyl-methyl-amino)-acetic acid (0.39 g, 1.1 mmol) in a 20 mL microwave reaction flask was added THF (3 mL), acetonitrile (3 mL), and sodium carbonate (1 N in water, 3 mL, 6 mmol). The resulting suspension was purged with nitrogen for 1 minute. Dichloro[1,1′-bis(diphenylphoshino)ferrocene]palladium(II) dichloromethane adduct (39 mg, 48 μmol) was added and the purging was continued for another minute. The flask was sealed and was irradiated in a microwave reactor to 90° C. for 10 minutes. The reaction mixture was adjusted to pH 4 by addition of 1 N hydrochloric acid, extracted with ethyl acetate (10 mL×3). The combine organic layers were dried over sodium sulfate, filtered, and concentrated. The residue was purified by flash chromatography on silica gel using a gradient of methanol in dichloromethane to afford (tert-butoxycarbonyl-methyl-amino)-{3-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-acetic acid as a off white solid (490 mg, 72%). MS: m/z 619 (M+H+).

reactant | 3-(2-methoxy-phenyl)-5-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridine | 1.1 mmol, 0.545 g | COC1=C(C=CC=C1)C1=NN(C2=NC=C(C=C21)B2OC(C(O2)(C)C)(C)C)COCC[Si](C)(C)C | C25H36BN3O4Si
reactant | (3-Bromo-phenyl)-(tert-butoxycarbonyl-methyl-amino)-acetic acid | 1.1 mmol, 0.39 g | BrC=1C=C(C=CC1)C(C(=O)O)N(C)C(=O)OC(C)(C)C | C14H18BrNO4
reactant | sodium carbonate | 6 mmol, 1 N, 3 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
catalyst | Dichloro[1,1′-bis(diphenylphoshino)ferrocene]palladium(II) dichloromethane adduct | 48 μmol, 39 mg | C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C1=CC=C(C=C1)[PH+](C2=CC=CC=C2)[C]3[CH][CH][CH][CH]3.C(Cl)Cl.Cl[Pd]Cl.[Fe]
solvent | acetonitrile | 3 mL | C(C)#N | C2H3N
solvent | THF | 3 mL | C1CCOC1 | C4H8O
product | (tert-butoxycarbonyl-methyl-amino)-{3-[3-(2-methoxy-phenyl)-1-(2-trimethylsilanyl-ethoxymethyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-acetic acid | C(C)(C)(C)OC(=O)N(C)C(C(=O)O)C1=CC(=CC=C1)C=1C=C2C(=NC1)N(N=C2C2=C(C=CC=C2)OC)COCC[Si](C)(C)C | C33H42N4O6Si
